US06831080B2
Preparation of (±)-7-{1-[3-(4-Fluorophenyl)acryloylamino]ethyl}3,4-dihydro-1H-isoquinoline-2-carboxylic acid methyl ester
A mixture of 4-fluorocinnamic acid (1 mmol), (±)-7-(1-aminoethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid methyl ester, Preparation 10 (280 mg, 1.2 mmol), EDC hydrochloride (387 mg, 2 mmol), DMAP (122 mg, 1 mmol), and triethylamine (404 mg, 4 mmol) in CH2Cl2 (8 mL) was stirred at room temperature for 16 hours. The reaction mixture was directly subjected to purification by flash column chromatography on silica gel eluted with EtOAc/hexane (50%) to provide the title compound (295 mg).

reactant | 4-fluorocinnamic acid | 1 mmol | FC1=CC=C(C=CC(=O)O)C=C1 | C9H7FO2
reactant | (±)-7-(1-aminoethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid methyl ester | COC(=O)N1CC2=CC(=CC=C2CC1)C(C)N | C13H18N2O2
reactant | EDC hydrochloride | 2 mmol, 387 mg | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 4 mmol, 404 mg | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 1 mmol, 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | (±)-7-{1-[3-(4-Fluorophenyl)acryloylamino]ethyl}3,4-dihydro-1H-isoquinoline-2-carboxylic acid methyl ester | 295 mg | COC(=O)N1CC2=CC(=CC=C2CC1)C(C)NC(C=CC1=CC=C(C=C1)F)=O | C22H23FN2O3
